US07259266B2
6-chloro-7-[4-(hydroxymethyl)benzyl]-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
The 6-chloro-7-(4-formylbenzyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid (Example 604 g) (210 mg, 0.49 mmole) was dissolved in MeOH:THF (1:1) (3 mL). NaBH4 (20 mg, 0.49 mmole) was added to the above solution portionwise. After stiring for 15 min, the reaction was finished. The reaction was quenched with (sat.) NH4Cl, the organic layer was extracted with EtOAc and dried over MgSO4 and filtered. The filtrate was concentrated to give the title compound as an oil, which solidify upon standing as a white solid 200 mg (95% yield): ESHRMS m/z 397.0457 (M−H, C19H13O4F3Cl, Calc'd 397.0449). 1H NMR (acetone-d6/400 MHz) 7.87 (s, 1H), 7.57 (s, 1H), 7.31 (d, 2H, J=8.2 Hz), 7.22 (d, 2H, J=8.2 Hz), 6.92 (s, 1H), 5.80 (q, 1H, J=7.2 Hz), 4.59 (s, 2H), 4.09 (d, 2H, J=4.3 Hz).

reactant | 6-chloro-7-(4-formylbenzyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.49 mmole, 604 g | ClC=1C=C2C=C(C(OC2=CC1CC1=CC=C(C=C1)C=O)C(F)(F)F)C(=O)O | C19H12ClF3O4
reactant | NaBH4 | 0.49 mmole, 20 mg | [BH4-].[Na+]
solvent | MeOH THF | 3 mL | CO.C1CCOC1
product | 6-chloro-7-[4-(hydroxymethyl)benzyl]-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | ClC=1C=C2C=C(C(OC2=CC1CC1=CC=C(C=C1)CO)C(F)(F)F)C(=O)O | C19H14ClF3O4
